US08633319B2
2-[6-([2-(4-aminophenyl)ethyl]{2-[(4-aminophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione
2-[6-([2-(4-nitrophenyl)ethyl]{2-[(4-nitrophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione (0.35 g) was dissolved in a mixture of ethanol (40 ml), water (5 ml) and acetic acid (5 ml) and the resulting solution degassed under reduced pressure. 10% Palladium on carbon (56% paste, 0.27 g) was added and the resulting mixture stirred vigorously under a hydrogen atmosphere (atmospheric pressure) for 12 h. The reaction mixture was filtered through Celite™ and washed with ethanol. The filtrate and washings were evaporated to dryness to give the title compound (0.313 g) which was used without further purification.

reactant | 2-[6-([2-(4-nitrophenyl)ethyl]{2-[(4-nitrophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione | 0.35 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN(CCCCCCN1C(C2=CC=CC=C2C1=O)=O)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C30H32N4O7
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-[6-([2-(4-aminophenyl)ethyl]{2-[(4-aminophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione | 0.313 g | NC1=CC=C(C=C1)CCN(CCCCCCN1C(C2=CC=CC=C2C1=O)=O)CCOC1=CC=C(C=C1)N | C30H36N4O3
